US08304419B2
Methyl (4-chloro-5-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)carbamate
Methyl chloroformate (0.020 mL, 0.26 mmol) was added to a solution of 2-amino-4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide (0.050 g, 0.086 mmol) and DIEA (0.075 mL, 0.43 mmol) in CH2Cl2 (0.5 mL). The reaction mixture was stirred at RT overnight. TFA (0.5 mL) was added and the reaction mixture was stirred at RT for another 1 h. The reaction mixture was then evaporated and taken up in MeOH (1 mL). NaBH4 (0.030 g, 0.80 mmol) was added and the reaction mixture was stirred overnight. CH2Cl2 and sat'd NaHCO3 were added and the solution was extracted with CH2Cl2. The organic layer was dried (Na2SO4), filtered, concentrated and purified by Reverse-Phase HPLC (water:acetonitrile with 0.1% TFA) to afford the title compound (0.008 g, 19%) as a white solid. 1H NMR (400 MHz, METHANOL-d4) δ ppm 7.56 (s, 1H) 7.34-7.44 (m, 2H) 7.25-7.29 (m, 1H) 7.24 (s, 1H) 4.57-4.70 (m, 2H) 3.81 (s, 3H). ES-LCMS: m/z 512.01, 513.97 (M+1).

reactant | Methyl chloroformate | 0.26 mmol, 0.020 mL | ClC(=O)OC | C2H3ClO2
reactant | 2-amino-4-chloro-N-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-5-carboxamide | 0.086 mmol, 0.050 g | NC=1N(C(=C(N1)Cl)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)COCC[Si](C)(C)C | C24H25Cl3FN5O3Si
reactant | DIEA | 0.43 mmol, 0.075 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | TFA | 0.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | NaBH4 | 0.80 mmol, 0.030 g | [BH4-].[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | Methyl (4-chloro-5-{[({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)amino]carbonyl}-1H-imidazol-2-yl)carbamate | 0.008 g, 19% | ClC=1N=C(NC1C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F)NC(OC)=O | C20H13Cl3FN5O4
